US05360815
Step 1: 4-(3-Furyl)-7-hydroxycoumarin
A mixture of ethyl 3-oxo-3-(3-furyl)propionate (Aldrich; 3.17 g) and resorcinol (3.83 g) was treated with polyphosphoric acid (15 g) and heated to 110° C. under nitrogen. After 2 hr, the tarry mixture was cooled, then H2O and THF were added until a solution was obtained. Brine and EtOAc were added, the organic layer was removed and washed twice with brine. Chromatography of the residue, after concentration, using hexane/EtOAc 2:1 followed by swishing the product with ether afforded the title compound as a solid, m.p. 229°-232° C.

reactant | ethyl 3-oxo-3-(3-furyl)propionate | 3.17 g | O=C(CC(=O)OCC)C1=COC=C1 | C9H10O4
reactant | resorcinol | 3.83 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | H2O | O | H2O
reactant | THF | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(3-Furyl)-7-hydroxycoumarin | O1C=C(C=C1)C1=CC(OC2=CC(=CC=C12)O)=O | C13H8O4
